US07417047B2
Preparation of 4-[(3-bromophenyl)ethynyl]-1-(2,2,2-trifluoroethyl)-1H-pyrazole
To a solution of 4-iodo-1-(2,2,2-trifluoroethyl)-1H-pyrazole (4.14 g, 15 mmol) in triethylamine (53 mL) is added tetrakis(triphenylphosphine)paddadium (1.20 g, 1.04 mmol), copper iodide (0.28 g, 1.46 mmol) and a solution of 1-bromo-3-ethynylbenzene (2.78 g, 15 mmol) in acetonitrile (15 mL) at room temperature. After heating for 1 hour at 80° C., the reaction mixture is cooled and concentrated. The crude material is purified by chromatography (silica gel, EtOAc/hexane: 5/95) to give the title compound as a solid (4.91 g, 99%). mp: 107-109° C. MS (+) EI: 328 M+.

reactant | 4-iodo-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 15 mmol, 4.14 g | IC=1C=NN(C1)CC(F)(F)F | C5H4F3IN2
reactant | 1-bromo-3-ethynylbenzene | 15 mmol, 2.78 g | BrC1=CC(=CC=C1)C#C | C8H5Br
solvent | triethylamine | 53 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | copper iodide | 1.46 mmol, 0.28 g | [Cu](I)I
product | 4-[(3-bromophenyl)ethynyl]-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 4.91 g, 99% | BrC=1C=C(C=CC1)C#CC=1C=NN(C1)CC(F)(F)F | C13H8BrF3N2
